US07576165B2
93 mmol 1-(azidomethyl)-4-methoxybenzene, 110 mmol propargyl alcohol were mixed in 230 ml tert-butyl alcohol/H2O (1:1) solution. 1 mmol CuSO4.5H2O and 10 mmol Ascorbic acid sodium salts dissolved in 2 ml water were added into the solution. The mixture was stirred for 2 days. After evaporation, the mixture was purified by flash column to give 55 mmol (1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-yl) methanol. 1H NMR (CDCl3): 7.42 (1H, s), 7.22 (2H, d, JH-H=8.70), 6.88 (2H, d, JH-H=8.70), 5.43 (2H, s), 4.73 (2H, s), 3.79 (3H, s).

reactant | 1-(azidomethyl)-4-methoxybenzene | 93 mmol | N(=[N+]=[N-])CC1=CC=C(C=C1)OC | C8H9N3O
reactant | propargyl alcohol | 110 mmol | C(C#C)O | C3H4O
solvent | tert-butyl alcohol H2O | 230 ml | C(C)(C)(C)O.O
solvent | water | 2 ml | O | H2O
product | (1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-yl) methanol | 55 mmol | COC1=CC=C(CN2N=NC(=C2)CO)C=C1 | C11H13N3O2
